US04829071
(D) 2-Chloromethyl-6-methanesulphonamidoquinoline
6-Methanesulphonamido-2-methylquinoline-1-oxide (1.65 g) and p-toluenesulphonyl chloride (1.72 g) were heated under reflux for 1 hour in 1,2-dichloroethane solution, and the reaction mixture was then stood at room temperature for 17 hours. The reaction mixture was then washed twice with aqueous sodium bicarbonate, dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography on silica eluting with methylene chloride containing methanol (0% up to 1%). The product-containing fractions were combined and evaporated to give a gum which solidified when triturated with ether. Recrystallisation from toluene gave the title compound, yield 0.75 g, m.p. 160°-162°.

reactant | 6-Methanesulphonamido-2-methylquinoline-1-oxide | 1.65 g | CS(=O)(=O)NC=1C=C2C=CC(=[N+](C2=CC1)[O-])C | C11H12N2O3S
reactant | p-toluenesulphonyl chloride | 1.72 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 2-Chloromethyl-6-methanesulphonamidoquinoline | ClCC1=NC2=CC=C(C=C2C=C1)NS(=O)(=O)C | C11H11ClN2O2S
